US05089504
Ethyl-2-butyryl-3-(4-benzoyloxymethylphenylamino)acrylate (50 g) was added portion wise to boiling diphenyl ether (500 ml) and heating continued under relfux for 30 minutes. On cooling, crystals started to appear and the mixture was diluted with petroleum ether to give 3-butyryl-6-(benzoyloxymethyl)4(1H)quinolone (39.7 g, 96%) as light brown crystals, m.p. 220° C.-3° C.

reactant | Ethyl-2-butyryl-3-(4-benzoyloxymethylphenylamino)acrylate | 50 g | C(C)OC(C(=CNC1=CC=C(C=C1)COC(C1=CC=CC=C1)=O)C(CCC)=O)=O | C23H25NO5
solvent | diphenyl ether | 500 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-6-(benzoyloxymethyl)4(1H)quinolone | 39.7 g, 96% | C(CCC)(=O)C1=CNC2=CC=C(C=C2C1=O)COC(C1=CC=CC=C1)=O | C21H19NO4
